US04803218
A suspension of 11.0 g (0.05 mole) of N-(3-cyanomethyl-1H-indol-5-yl)urea in 700 ml of abs. EtOH saturated with NH3 was treated with RaNi (one spoonful, activated by washing with 1 l of abs EtOH) and hydrogenated in a Parr apparatus for 14 hours. The solution was filtered through celite and then through a millipore followed by evaporation of solvents in vacuo to give an oily solid. Trituration with EtOH afforded 8.2 g of crude white product: m.p. 187.5°-188.5°. Thin layer chromatography indicated an approximately 5% impurity (3% NH4OH - MeOH/silica gel). Dry column chromatography (1.5 g/400 g of silica gel--3% NH4OH/MeOH elluent) affords 4.8 g of pure N-[3-(2-aminoethyl)-1H-indol-5-yl]urea: m.p. 188.5°-189.5°; i.r. (KBr) 3400, 3360, 3280, 3200, and 1650 cm-1 ; nmr (d6 -DMSO) δ(TMS) 10.72 (1,S,indole NH), 8.37 (1,S,--NHCO--), 7.65 (1,d, Jmeta =2 Hz), 7.27 (1,d,Jortho =8 Hz), 7.10 (1,S,indole C2H), 7.02 (1,d of d, Jortho =8 Hz, Jmeta =2 Hz), 5.71 (2,S,--CONH2), 2.78 (4,S,--CH2CH2 --) and 2.30 ppm (2,S,--NH2).

reactant | N-(3-cyanomethyl-1H-indol-5-yl)urea | 0.05 mole, 11.0 g | C(#N)CC1=CNC2=CC=C(C=C12)NC(=O)N | C11H10N4O
reactant | NH3 | N | H3N
catalyst | RaNi | 1 l | [Ni] | Ni
solvent | EtOH | CCO | C2H6O
product | N-[3-(2-aminoethyl)-1H-indol-5-yl]urea | 4.8 g | NCCC1=CNC2=CC=C(C=C12)NC(=O)N | C11H14N4O
